US07572808B2
Preparation of 4-(8-(4-methoxyphenyl)-3-oxo-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile
Into a microwave reaction vial were placed 7-(4-chlorophenyl)-8-(4-methoxyphenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (51 mg, 0.10 mmol), CuCN (89.5 mg, 1.0 mmol), and 1-methylpyrrolidin-2-one (1.0 mL, dry). This mixture was heated to 250° C. in a microwave reactor for 8 h. HPLC/MS analysis indicated 55% conversion to desired product. The reaction mixture was cooled to room temperature and poured into 10% aqueous ammonium hydroxide solution. The resulting mixture was stirred at room temperature for 1 h. Solid was filtered off and purified by reverse phase preparative HPLC (without TFA). The title compound (8.6 mg) was obtained as a light yellow solid. HPLC/MS: retention time=3.5 min, [M+H]+=502.

reactant | 7-(4-chlorophenyl)-8-(4-methoxyphenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.10 mmol, 51 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)OC | C26H18ClF3N4O2
reactant | CuCN | 1.0 mmol, 89.5 mg | C(#N)[Cu]
solvent | 1-methylpyrrolidin-2-one | 1.0 mL | CN1C(CCC1)=O | C5H9NO
product | 4-(8-(4-methoxyphenyl)-3-oxo-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile | COC1=CC=C(C=C1)C=1C=2N(C=CC1C1=CC=C(C#N)C=C1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C27H18F3N5O2
